US07473688B2
To a solution of 7H-indolo[2,1-a][2]benzazepine-10-carboxylic acid, 13-cyclohexyl-3-methoxy-6-[[[2-(methylamino)-2-oxoethyl]amino]carbonyl]- (110 mg, 0.22 mmol), N,N-dimethylsulfamide (136 mg, 1.10 mmol) and DMAP (134 mg, 1.10 mmol) in dimethylformamide (2 mL) was added PS-carbodiimide (576 mg, 1.3 mmol/g, 0.88 mmol). The reaction solution was shaken at rt overnight, filtered, concentrated and purified by preparative HPLC (MeOH/H2O with an NH4OAc buffer) to yield 7H-indolo[2,1-a][2]benzazepine-6,10-dicarboxamide, 13-cyclohexyl-N10-[(dimethylamino)sulfonyl]-3-methoxy-N6-[2-(methylamino)-2-oxoethyl]- (40 mg, 0.07 mmol, 30%) as a yellow solid. 1HNMR (500 MHz, CD3OD) δ 8.13 (s. 1H), 7.85 (d, J=8.6 Hz, 1H), 7.60-7.52 (m, 3H), 7.15 (dd, J=2.8, 8.8 Hz, 1H), 7.10 (d, J=2.8 Hz, 1H), 5.64-5.53 (m, 1H), 4.19-4.07 (m, 1H), 3.96-3.86 (m, 2H), 3.91 (s, 3H), 2.99 (s, 6H), 2.89-2.80 (m, 1H), 2.71 (s, 3H), 2.16-1.70 (m, 6H), 1.54-1.16 (m, 4H). LCMS: m/e 606 (M−H)−, ret time 1.57 min, column A, 3 minute gradient.

reactant | 7H-indolo[2,1-a][2]benzazepine-10-carboxylic acid | C1=CC=CC=2C=CCN3C(C21)=CC=2C=CC(=CC23)C(=O)O | C18H13NO2
reactant | N,N-dimethylsulfamide | 1.10 mmol, 136 mg | CN(S(=O)(=O)N)C | C2H8N2O2S
reactant | carbodiimide | 0.88 mmol, 576 mg | N=C=N | CH2N2
reactant | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
catalyst | DMAP | 1.10 mmol, 134 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 7H-indolo[2,1-a][2]benzazepine-6,10-dicarboxamide | C1=CC=CC=2C=C(CN3C(C21)=CC=2C=CC(=CC23)C(=O)N)C(=O)N | C19H15N3O2
